US09029374B2
8-(1-(4-fluorophenylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid (80 mg, 0.19 mmol) was reacted with N1,N1,N2-trimethylethane-1,2-diamine (0.030 mL, 0.23 mmol) using a procedure similar to the one described in Example 2.00 to afford N-(2-(dimethylamino)ethyl)-8-(1-(4-fluorophenylamino)ethyl)-N-methyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (15.0 mg, 15.6%) as a white solid. Mass Spectrum: M+H+ 497. NMR Spectrum: (DMSOd6) 1.49 (d, 3H), 1.74 (bs, 3H), 2.01 (bs, 1H), 2.18 (s, 3H), 2.66 (bs, 1.5H), 2.89 (bs, 2H), 3.05 (bs, 1.5H), 3.47 (bs, 1H), 3.50-3.64 (m, 4H), 3.71-3.79 (m, 4H), 4.93-5.01 (m, 1H), 5.59 (s, 1H), 6.29 (bs, 1H), 6.46 (dd, 2H), 6.84 (dd, 2H), 6.54 (d, 1H), 6.73 (d, 1H).

reactant | 8-(1-(4-fluorophenylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid | 0.19 mmol, 80 mg | FC1=CC=C(C=C1)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)O | C22H21FN2O5
reactant | N1,N1,N2-trimethylethane-1,2-diamine | 0.23 mmol, 0.030 mL | CN(CCNC)C | C5H14N2
product | N-(2-(dimethylamino)ethyl)-8-(1-(4-fluorophenylamino)ethyl)-N-methyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 15.0 mg, 15.6% | CN(CCN(C(=O)C=1C=C2C(C=C(OC2=C(C1)C(C)NC1=CC=C(C=C1)F)N1CCOCC1)=O)C)C | C27H33FN4O4
